US07141575B2
A solution of 7-(2-furyl)-1H-[1,2,3]triazolo[4,5-d]pyrimidine-5-amine (404 mg, 2 mmol) in DMF (4 mL) was treated with NaH (60% dispersion, 80 mg, 2 mmol), stirred at room temperature for 10 min, treated with a solution of tert-butyl 5-(bromomethyl)-1H-benzotriazole-1-carboxylate (as a mixture with the 6-bromomethyl regioisomer) (624 mg, 2 mmol) in DMF (2 mL) and stirred overnight. The mixture was concentrated in vacuo and purified by chromatography [SiO2, isohexane:EtOAc (2:1)] to give tert-butyl 5-(5-amino-7-(2-furyl)-3H-triazolo[4,5-d]pyrimidin-3-yl)methyl-1H-benzotriazol-1-carboxylate (135 mg, 24%) (as a mixture with the 6-substituted regioisomer) as a white solid.

reactant | 7-(2-furyl)-1H-[1,2,3]triazolo[4,5-d]pyrimidine-5-amine | 2 mmol, 404 mg | O1C(=CC=C1)C=1C2=C(N=C(N1)N)N=NN2 | C8H6N6O
reactant | NaH | 2 mmol, 80 mg | [H-].[Na+]
reactant | tert-butyl 5-(bromomethyl)-1H-benzotriazole-1-carboxylate | BrCC1=CC2=C(N(N=N2)C(=O)OC(C)(C)C)C=C1 | C12H14BrN3O2
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | tert-butyl 5-(5-amino-7-(2-furyl)-3H-triazolo[4,5-d]pyrimidin-3-yl)methyl-1H-benzotriazol-1-carboxylate | 135 mg, 24% | NC=1N=C(C2=C(N1)N(N=N2)CC2=CC1=C(N(N=N1)C(=O)OC(C)(C)C)C=C2)C=2OC=CC2 | C20H19N9O3
